US07456218B2
(2′,4′-dimethylbiphenyl-3-yl)methanol
To a solution of ethyl 2′,4′-dimethylbiphenyl-3-carboxylate (5.0 g, 19.7 mmol) in anhydrous tetrahydrofuran (50 mL) was added lithium aluminum hydride (0.91 g, 24.0 mmol) under ice-cooling and the mixture was stirred at room temperature for 3 hrs. The reaction solution was ice-cooled and sodium sulfate 10 hydrate (8.0 g, 24.8 mmol) was added. The mixture was stirred at room temperature for 1 hr. The precipitated insoluble material was filtered off through celite, and the filtrate was concentrated under reduced pressure to give the title compound as a colorless oil (yield 96%).

reactant | ethyl 2′,4′-dimethylbiphenyl-3-carboxylate | 19.7 mmol, 5.0 g | CC1=C(C=CC(=C1)C)C1=CC(=CC=C1)C(=O)OCC | C17H18O2
reactant | lithium aluminum hydride | 24.0 mmol, 0.91 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate 10 hydrate | 24.8 mmol, 8.0 g | O.O.O.O.O.O.O.O.O.O.[O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (2′,4′-dimethylbiphenyl-3-yl)methanol | yield 96% | CC1=C(C=CC(=C1)C)C1=CC(=CC=C1)CO | C15H16O
